US04927845
1,8-Dihydroxy-9-anthrone (17.3 g) was dissolved in carbon disulphide (1.25 liter) by heating, and the solution was treated dropwise with 18.5 g of bromine with stirring at 50° C. The solution was left stirring at that temperature overnight, then cooled to room temperature and concentrated to one tenth of its volume by removal of the solvent under reduced pressure. The yellow precipitate was filtered off, dried and recrystallised from a petroleum ether (boiling point 40°-60° C.)/chloroform mixture (1:1) to give 10-bromo-1,8-dihydroxy-9-anthrone (18.1 g, 77.5%), melting point 149°-151° C. (with decomposition). [Literature reference, O. E. Schultz and H.-H. Schultze-Mosgau, Arch. Pharm. (Weinheim. Ger.), 1965, 298, 273, gives melting point 148°-150° C. (with decomposition)].

reactant | 1,8-Dihydroxy-9-anthrone | 17.3 g | OC1=CC=CC=2CC3=CC=CC(=C3C(C12)=O)O | C14H10O3
reactant | bromine | 18.5 g | BrBr | Br2
solvent | carbon disulphide | 1.25 liter | C(=S)=S | CS2
product | 10-bromo-1,8-dihydroxy-9-anthrone | 18.1 g, 77.5% | BrC1C=2C=CC=C(C2C(C2=C(C=CC=C12)O)=O)O | C14H9BrO3
